US04734426
A. N-[(Butylamino)carbonyl]glycine, ethyl ester
Glycine ethyl ester·HCl (5.58 g, 40 mmol) was suspended in distilled CH2Cl2 (20 ml). After cooling in an ice bath, distilled Et3N (6.13 ml, 44 mmol) was added. Distilled n-butyl isocyanate (4.95 ml, 44 mmol) was added. The cooling bath was removed and the mixture was left stirring overnight at room temperature. Additional Et3N (3.05 ml) was added and the mixture was stirred 3 more hours. After diluting with more CH2Cl2, the solution was washed with water (50 ml), 1N HCl (50 ml), saturated NaHCO3 solution (50 ml) and water (50 ml). After drying (MgSO4), the solvent was removed in vacuo leaving the title compound (7.641 g, 94%) which slowly crystallized. This was used without further purification.

reactant | Glycine ethyl ester·HCl | 40 mmol, 5.58 g | C(C)OC(CN)=O.Cl
reactant | Et3N | 44 mmol, 6.13 ml | CCN(CC)CC | C6H15N
reactant | n-butyl isocyanate | 44 mmol, 4.95 ml | C(CCC)N=C=O | C5H9NO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[(Butylamino)carbonyl]glycine, ethyl ester | 7.641 g, 94% | C(CCC)NC(=O)NCC(=O)OCC | C9H18N2O3
